US06124323
1-[2-(3-Hydroxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-methylbenzyl)piperidine hydrochloride (294 mg, 1.30 mmol), 2-(3-benzyloxyphenoxy)ethyl bromide (399 mg, 1.3 mmol) and potassium carbonate (449 mg, 3.2 mmol) in two steps as white-off solid (230 mg): mp 163-165° C. 1H NMR (CD3OD) 1.421 (m, 2 H), 1.733 (m, 2 H), 2.135 (s, 3 H), 2.424 (d, J=5.7 Hz, 2 H), 2.9 (m, 2 H), 3.370 (m, 2 H), 3.448 (m, 2 H), 4.147 (t, J=4.8 Hz, 2 H), 6.302 (m, 3 H), 6.937 (m, 5 H).

reactant | 4-(4-methylbenzyl)piperidine hydrochloride | 1.30 mmol, 294 mg | Cl.CC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(3-benzyloxyphenoxy)ethyl bromide | 1.3 mmol, 399 mg | C(C1=CC=CC=C1)OC=1C=C(OCCBr)C=CC1 | C15H15BrO2
reactant | potassium carbonate | 3.2 mmol, 449 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(3-Hydroxyphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride | Cl.OC=1C=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=CC1 | InChI=1S/C21H27NO2.ClH/c1-17-5-7-18(8-6-17)15-19-9-11-22(12-10-19)13-14-24-21-4-2-3-20(23)16-21;/h2-8,16,19,23H,9-15H2,1H3;1H
